US05595995
(+)-(S)-1-(1-Adamantyl)-3-(3-pyridyl)butan-1-one
The method essentially followed that described in Example 9 but using (-)-(S)-1-(3-pyridyl)ethanol [91% e.e; prepared by asymmetric reduction of 3-acetylpyridine with (+)-B-chlorodiisopinocampheylborane] (0.37g, 3.0 mmol). Chromatography, on elution with petrol-ether-triethylamine 125:50:1, afforded the title compound (0.35g, 41%) as an oil. 81% ee, [α]D +12.50° (c 0.8, MeOH). IR, NMR and MS data were the same as given in Example 10.

reactant | (-)-(S)-1-(3-pyridyl)ethanol | N1=CC(=CC=C1)[C@H](C)O | C7H9NO
reactant | 3-acetylpyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | (+)-B-chlorodiisopinocampheylborane | B([C@H]1C[C@H]2C[C@@H]([C@@H]1C)C2(C)C)([C@H]3C[C@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
product | (+)-(S)-1-(1-Adamantyl)-3-(3-pyridyl)butan-1-one | 0.35g, 41% | C12(CC3CC(CC(C1)C3)C2)C(C[C@H](C)C=2C=NC=CC2)=O | C19H25NO
